US05173485
To a solution of 1-methoxycarbonylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (27 g) in ethanol (135 ml) was added 28% ammonium solution (100 ml). The mixture was stirred overnight at room temperature. The insoluble material was filtered off and the filtrate was evaporated to precipitate the crystals. The crystals were collected by filtration to give 1-carbamoylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (6 g).

reactant | 1-methoxycarbonylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 27 g | COC(=O)CN1CCN2N=CC=C21 | C8H11N3O2
reactant | ammonium | 100 ml | [NH4+]
solvent | ethanol | 135 ml | C(C)O | C2H6O
product | 1-carbamoylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 6 g | C(N)(=O)CN1CCN2N=CC=C21 | C7H10N4O
